US07846960B2
4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-benzaldehyde
To a −78° C. solution of 5-(4-Bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole (906 mg, 2.0 mmol) in anhydrous THF is added 1.6 M n-butyllithium (1.35 mL). After 30 minutes, N,N-dimethylformamide is added (0.5 mL, 6.4 mmol). After 30 minutes, saturated aqueous ammonium chloride is added. The mixture is extracted with ethyl acetate (2×). The combined ethyl acetate layers are dried (MgSO4) and concentrated under reduced pressure. The crude residue is purified via flash chromatography (ethyl acetate/heptane gradient) to afford the title compound (110 mg, 14%). LC-ES/MS m/e 403.0 (M+1).

reactant | 5-(4-Bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole | 2.0 mmol, 906 mg | BrC1=C(C=C(OCC2=C(C=NN2C2=C(C=CC=C2Cl)Cl)C(C)C)C=C1)C | C20H19BrCl2N2O
reactant | n-butyllithium | 1.6 M, 1.35 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-benzaldehyde | 110 mg, 14% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=O)C=C1)C)C(C)C | C21H20Cl2N2O2
